US07960394B2
2-{4-[{1-Cyclopentylpiperidin-4-yl)oxy]-2-methoxyphenyl}-3-methylpyrido[2,3-d]pyrimidin-4(3H)-one
The entitled compound was obtained according to the method of Example 85 but using 2-aminonicotinic acid, methylamine, 2-methoxy-4-hydroxybenzaldehyde, tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate, and cyclopentanone.

reactant | 2-aminonicotinic acid | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | methylamine | CN | CH5N
reactant | 2-methoxy-4-hydroxybenzaldehyde | COC1=C(C=O)C=CC(=C1)O | C8H8O3
reactant | tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
product | 2-{4-[{1-Cyclopentylpiperidin-4-yl)oxy]-2-methoxyphenyl}-3-methylpyrido[2,3-d]pyrimidin-4(3H)-one | C1(CCCC1)N1CCC(CC1)OC1=CC(=C(C=C1)C=1N(C(C2=C(N1)N=CC=C2)=O)C)OC | C25H30N4O3
